US06960598B2
Trifluoromethanesulfonic acid 2-fluoro-5-(7-trifluoromethyl[1,8]naphthyridin-4-yl)phenyl ester (30.0 mg, 0.068 mmol) was coupled to 5-pyrimidinylboronic acid (prepared as described in WO 9411372; 11.0 mg, 0.089 mmol) as described in Example 35 part c), affording 5-(4-fluoro-3-pyrimidin-5-ylphenyl)-2-trifluoromethyl[1,8]naphthyridine (10.3 mg, 41%). δH (360 MHz, CDCl3) 7.49 (1H, t, J 9.5), 7.55-7.61 (3H, m), 7.86 (1H, d, J 8.4), 8.51 (1H, d, J 8.4), 9.01 (2H, d, J 1.1), 9.28 (1H, s), 9.32 (1H, d, J 4.6). m/z (ES+) 371 [MH]+.

reactant | Trifluoromethanesulfonic acid 2-fluoro-5-(7-trifluoromethyl[1,8]naphthyridin-4-yl)phenyl ester | 0.068 mmol, 30.0 mg | FC1=C(C=C(C=C1)C1=CC=NC2=NC(=CC=C12)C(F)(F)F)OS(=O)(=O)C(F)(F)F | C16H7F7N2O3S
reactant | 5-pyrimidinylboronic acid | 0.089 mmol, 11.0 mg | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
product | 5-(4-fluoro-3-pyrimidin-5-ylphenyl)-2-trifluoromethyl[1,8]naphthyridine | 10.3 mg, 41% | FC1=C(C=C(C=C1)C1=C2C=CC(=NC2=NC=C1)C(F)(F)F)C=1C=NC=NC1 | C19H10F4N4
